US06740777B2
To a solution of 2-hydroxy-6-methoxycarbonylmethyl-benzoic acid methyl ester (2.51 g, 11.2 mmol) in CH2Cl2 (50 mL) at 0° C. were added triflic anhydride (3.0 mL, 17.8 mmol) and pyridine (2.40 mL, 29.7 mmol). The solution was allowed to warm to rt overnight and was concentrated in vacuo. The residue was diluted with EtOAc (100 mL), washed with 1 N HCI (25 mL), saturated aqueous NaHCO3 (25 mL), H2O (25 mL), and brine (25 mL). The organic layer was dried over MgSO4 and concentrated. The residue was purified by flash chromatography (10% EtOAc/hexanes) to provide 2-methoxycarbonylmethyl-6-trifluoromethanesulfonyloxy-benzoic acid methyl ester as an oil (3.5 g, 90%): 1H NMR (CDCl3) δ3.86 (s, 3H), 4.06 (s, 2H), 4.10 (s, 3H), 7.4 (d, J=7.6 Hz, 1H), 7.50 (d, J=7.6 Hz, 1H), 7.67 (t, J=8.2 Hz, 1H).

reactant | 2-hydroxy-6-methoxycarbonylmethyl-benzoic acid methyl ester | 11.2 mmol, 2.51 g | COC(C1=C(C=CC=C1CC(=O)OC)O)=O | C11H12O5
reactant | triflic anhydride | 17.8 mmol, 3.0 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | pyridine | 29.7 mmol, 2.40 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-methoxycarbonylmethyl-6-trifluoromethanesulfonyloxy-benzoic acid methyl ester | 3.5 g, 90% | COC(C1=C(C=CC=C1OS(=O)(=O)C(F)(F)F)CC(=O)OC)=O | C12H11F3O7S
